### ISSUE TITLE
[MISFORMALISATION]: `lemma_5_10a` statement is false for `k=4`

### ISSUE THREAD

**Issue by pitmonticone** [AlexKontorovich/PrimeNumberTheoremAnd#1129]
`lemma_5_10a` in `Dusart.lean` states:

```lean
theorem lemma_5_10a {k : ℕ} (hk : k ≥ 4) : nth Nat.Prime k ≤ k * Real.log (nth Nat.Prime k) := by sorry
```

This is **false** for `k = 4`. The 4th prime (0-indexed via `Nat.nth`) is 11, so the claim becomes `11 ≤ 4 * log(11)`. But `log(11) ≈ 2.398`, giving `4 * log(11) ≈ 9.59 < 11`.

@Aristotle-Harmonic derives `False` from `lemma_5_10a`:

```lean
theorem proposition_5_15 {k : ℕ} (hk : k ≥ 688383) :
  nth Nat.Prime k ≤ k * Real.log k + Real.log (Real.log k) - 1 + (Real.log (Real.log k) - 2) / (Real.log k) := by
  exfalso
  have h := lemma_5_10a (show (4 : ℕ) ≥ 4 from le_refl _)
  rw [Nat.nth_prime_four_eq_eleven] at h
  simp only [Nat.cast_ofNat] at h
  linarith [show (4 : ℝ) * Real.log 11 < 11 from by interval_decide]
```

The lower bound `k ≥ 4` is too weak. Dusart's paper likely uses 1-indexed primes (`p₁ = 2, p₂ = 3, …`) or requires a larger starting index. The bound `pₖ ≤ k · ln pₖ` holds for sufficiently large `k` but fails for small values under 0-indexed `Nat.nth`.

**Co-authored-by: Aristotle (Harmonic) <aristotle-harmonic@harmonic.fun>**

**Comment by Chessing234** [comment]
The 1-indexed prime index is now reflected via `nth_prime' (k - 1)` in #1469.

**Comment by Chessing234** [comment]
Reopened the 1-indexed fix in #1512 — uses nth_prime' (k-1) for paper index k.

**Comment by Chessing234** [comment]
Same indexing fix for lemma_5_10b in the PR above.

**Comment by Chessing234** [comment]
Reopened the 1-indexed fix in #1622 on current main.

**Comment by Chessing234** [comment]
Opened #1624 for part (b): #1566 had over-corrected with an extra (k-1) even though nth_prime' is already 1-indexed.

**Comment by Chessing234** [comment]
Rebased the paper-index fix on current main.

**Comment by Chessing234** [comment]
Part (a) still had an extra `(k-1)` on `nth_prime'` after #1622 — opened #1627 to match the same paper-index convention as `lemma_5_10b`.
